US07232792B2
At room temperature, 41.8 g (0.41 mol) of triethylamine and then 31.1 g (0.10 mol) of methyl 2-chloro-3-chlorocarbonyl-4-methylsulfonylbenzoate in 150 ml of toluene were added dropwise to 26.6 g (0.13 mol) of I-amino-2-bromoethane hydrobromide in 500 ml of toluene. The mixture was heated under reflux for 5 hours and then stirred at room temperature for 12 hours, another 5.0 g (0.02 mol) of I-amino-2-bromoethane hydrobromide were added and the mixture was heated under reflux for 7.5 hours. The reaction mixture was allowed to cool, diluted with ethyl acetate, washed with water, dried and concentrated. The residue was then recrystallized from methyl tert-butyl ether/ethyl acetate. 14.5 g (46% of theory) of methyl 2-chloro-4-methylsulfonyl-3-(4,5-dihydrooxazol-2-yl)benzoate were obtained.

reactant | triethylamine | 0.41 mol, 41.8 g | C(C)N(CC)CC | C6H15N
reactant | methyl 2-chloro-3-chlorocarbonyl-4-methylsulfonylbenzoate | 0.10 mol, 31.1 g | ClC1=C(C(=O)OC)C=CC(=C1C(=O)Cl)S(=O)(=O)C | C10H8Cl2O5S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-chloro-4-methylsulfonyl-3-(4,5-dihydrooxazol-2-yl)benzoate | 14.5 g, 46% | ClC1=C(C(=O)OC)C=CC(=C1C=1OCCN1)S(=O)(=O)C | C12H12ClNO5S
